US08168794B2
To a solution of (3aR,7aS)-benzyl 2-oxohexahydrooxazolo[4,5-c]pyridine-5(6H)-carboxylate (1.0 equiv.) in dichloromethane (0.09 M) was added BOC2O (1.1 equiv.), triethylamine (1.1 equiv.), and a catalytic amount of DMAP. The reaction was stirred at room temperature for one hour at which point it was concentrated under vacuo and filtered through a plug of silica gel eluting with ethylacetate. The product was dried under vacuo to yield (3aR,7aS)-5-benzyl 3-tert-butyl 2-oxotetrahydrooxazolo[4,5-c]pyridine-3,5(2H,6H)-dicarboxylate as a white solid in 75% yield. LCMS (m/z): 277.2 (MH+), Rt=3.43 min.

reactant | (3aR,7aS)-benzyl 2-oxohexahydrooxazolo[4,5-c]pyridine-5(6H)-carboxylate | 1.0 equiv. | O=C1O[C@@H]2[C@@H](CN(CC2)C(=O)OCC2=CC=CC=C2)N1 | C14H16N2O4
reactant | BOC2O | 1.1 equiv. | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 1.1 equiv. | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 0.09 M | ClCCl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | (3aR,7aS)-5-benzyl 3-tert-butyl 2-oxotetrahydrooxazolo[4,5-c]pyridine-3,5(2H,6H)-dicarboxylate | 75% yield | O=C1O[C@@H]2[C@@H](CN(CC2)C(=O)OCC2=CC=CC=C2)N1C(=O)OC(C)(C)C | C19H24N2O6
